US07482354B2
N-benzyl-1-methyl-8-{[4-(4-methyl-4-oxidopiperazin-1-yl)phenyl]amino}-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide
To a solution of 39.4 mg (0.0774 mmol) of N-benzyl-1-methyl-8-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide, 17.4 mg (0.0774 mg) of 3-chlorobenzenecarboperoxoic acid were added and the mixture was stirred at room temperature. After 45 minutes an aqueous solution of NaHCO3 was added and the solvent removed. Treatment with methanol and filtration afforded 26.6 mg of the title compound (66% yield).

reactant | N-benzyl-1-methyl-8-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 0.0774 mmol, 39.4 mg | C(C1=CC=CC=C1)NC(=O)C1=NN(C2=C1CCC=1C=NC(=NC21)NC2=CC=C(C=C2)N2CCN(CC2)C)C | C29H32N8O
reactant | 3-chlorobenzenecarboperoxoic acid | 17.4 mg | ClC=1C=C(C=CC1)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-benzyl-1-methyl-8-{[4-(4-methyl-4-oxidopiperazin-1-yl)phenyl]amino}-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 26.6 mg, 66% yield | C(C1=CC=CC=C1)NC(=O)C1=NN(C2=C1CCC=1C=NC(=NC21)NC2=CC=C(C=C2)N2CC[N+](CC2)([O-])C)C | C29H32N8O2
